US07618982B2
DL-6-hydroxymethyl-2-pyridin-4-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one hydrochloride
A solution of 50 mg of DL-6-(tert-butyl-dimethyl-silanyloxymethyl)-4-oxo-2-pyridin-4-yl 1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester in 5 mL of 4M HCl in dioxane was stirred for 4 hours at room temperature. The solution was concentrated and the title compound recovered.

reactant | DL-6 (tert-butyl-dimethyl-silanyloxymethyl)-4-oxo-2-pyridin-4-yl 1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | 50 mg | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.C(C)(C)(C)OC(=O)N1C(C2=C(CC1)N(C(=C2)C2=CC=NC=C2)C(O[SiH2]C(C)(C)C)(C)C)=O
reactant | HCl | 4M, 5 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | DL-6 hydroxymethyl-2-pyridin-4-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one hydrochloride | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.Cl.OCN1C(=CC=2C(NCCC21)=O)C2=CC=NC=C2 | InChI=1S/C26H42N4O4.C13H13N3O2.ClH/c1-33-25-17-21(7-9-23(25)31)19-29-15-5-13-27-11-3-4-12-28-14-6-16-30-20-22-8-10-24(32)26(18-22)34-2;17-8-16-11-3-6-15-13(18)10(11)7-12(16)9-1-4-14-5-2-9;/h7-10,17-18,27-32H,3-6,11-16,19-20H2,1-2H3;1-2,4-5,7,17H,3,6,8H2,(H,15,18);1H
